US08044213B2
To a mixture of 0.150 g (0.23 mmole) of 2-(5-{[bis-(3-morpholin-4-yl-propyl)-amino]-methyl}-2-nitro-phenylamino)-4-(3-chloro-phenyl)-thiazole-5-carboxylic acid amide (VI.49a), 20 mL of tetrahydrofuran, and 20 mL of saturated ammonium chloride solution was added 0.089 g (1.38 mg-atom) of zinc powder. After 5 minutes the mixture was filtered and the filtrate partitioned between 50 mL of saturated ammonium chloride and 50 mL of tetrahydrofuran. The tetrahydrofuran layer was dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure. The residue was stirred for 3 hours with 30 mL of acetic acid and 0.178 g (1.2 mmole) of triethyl orthoformate. The mixture was concentrated under reduced pressure, diluted with 100 mL of dichloromethane and washed with saturated sodium bicarbonate solution, then brine, dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was purified by silica gel chromatography, eluting with dichloromethane-methanol-ammonium hydroxide (92:8:1) to give 0.075 g of 2-(6-{[bis-(3-morpholin-4-yl-propyl)-amino]-methyl}-benzoimidazol-1-yl)-4-(3-chloro-phenyl)-thiazole-5-carboxylic acid amide (I.49) as a light pink solid. MH+/Z=638.

reactant | 2-(5-{[bis-(3-morpholin-4-yl-propyl)-amino]-methyl}-2-nitro-phenylamino)-4-(3-chloro-phenyl)-thiazole-5-carboxylic acid amide | 0.23 mmole, 0.150 g | N1(CCOCC1)CCCN(CCCN1CCOCC1)CC=1C=CC(=C(C1)NC=1SC(=C(N1)C1=CC(=CC=C1)Cl)C(=O)N)[N+](=O)[O-] | C31H40ClN7O5S
reactant | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
reactant | ammonium chloride | 20 mL | [Cl-].[NH4+]
reactant | triethyl orthoformate | 1.2 mmole, 0.178 g | C(OCC)(OCC)OCC | C7H16O3
catalyst | zinc | 0.089 g | [Zn] | Zn
solvent | acetic acid | 30 mL | C(C)(=O)O | C2H4O2
product | 2-(6-{[bis-(3-morpholin-4-yl-propyl)-amino]-methyl}-benzoimidazol-1-yl)-4-(3-chloro-phenyl)-thiazole-5-carboxylic acid amide | 0.075 g | N1(CCOCC1)CCCN(CCCN1CCOCC1)CC=1C=CC2=C(N(C=N2)C=2SC(=C(N2)C2=CC(=CC=C2)Cl)C(=O)N)C1 | C32H40ClN7O3S
